US07157577B2
To a suspension of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-diethyl-propionamide (1.1 g, 3.8 mmol) in tetrahydrofuran (80 mL) was added dropwise a solution of lithium aluminum hydride (0.57 g, 15.1 mmol) in tetrahydrofuran. The mixture was refluxed overnight. To the cooled reaction was added enough ice until no more gas was generated followed by 15% sodium hydroxide and water. The reaction was stirred at room temperature for 30 minutes and the insolubles removed by vacuum filtration. The filtrate was concentrated to give 0.9 g of [3-(6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-diethyl-amine as a light yellow oil. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 9.75 (br s, 1H, NH), 6.24 (s, 1H), 2.19–2.44 (m, 14H, 7×CH2), 1.53 (m, 2H, CH2), 1.40 (m, 2H, CH2), 0.88–0.92 (m, 12H, 4×CH3). MS m/z 262 [M+].

reactant | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-diethyl-propionamide | 3.8 mmol, 1.1 g | CC1(CC(C=2C(=CNC2C1)CCC(=O)N(CC)CC)=O)C | C17H26N2O2
reactant | lithium aluminum hydride | 15.1 mmol, 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | [3-(6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-diethyl-amine | 0.9 g | CC1(CCC=2C(=CNC2C1)CCCN(CC)CC)C | C17H30N2
